US08580797B2
6-(1H-Indol-4-yl)-4-(5-{[4-(1-methylethyl)-1-piperazinyl]methyl}-1,3-oxazol-2-yl)-1H-indazole dihydrochloride
6-(1H-Indol-4-yl)-4-(5-{[4-(1-methylethyl)-1-piperazinyl]methyl}-1,3-oxazol-2-yl)-1H-indazole (19.4 mg, 0.044 mmol) was dissolved in tetrahydrofuran (THF) (0.5 ml) and 4M HCl in dioxane (0.022 ml, 0.088 mmol) added. The mixture was stirred at RT for 2 h, then the cream precipitate formed was filtered off and dried in a vacuum oven overnight to give the title compound as a beige solid (15.5 mg).

reactant | 6-(1H-Indol-4-yl)-4-(5-{[4-(1-methylethyl)-1-piperazinyl]methyl}-1,3-oxazol-2-yl)-1H-indazole | 0.044 mmol, 19.4 mg | N1C=CC2=C(C=CC=C12)C1=CC(=C2C=NNC2=C1)C=1OC(=CN1)CN1CCN(CC1)C(C)C | C26H28N6O
reactant | HCl | 4M | Cl | ClH
reactant | dioxane | 0.088 mmol, 0.022 ml | O1CCOCC1 | C4H8O2
solvent | tetrahydrofuran | 0.5 ml | O1CCCC1 | C4H8O
product | 6-(1H-Indol-4-yl)-4-(5-{[4-(1-methylethyl)-1-piperazinyl]methyl}-1,3-oxazol-2-yl)-1H-indazole dihydrochloride | 15.5 mg | Cl.Cl.N1C=CC2=C(C=CC=C12)C1=CC(=C2C=NNC2=C1)C=1OC(=CN1)CN1CCN(CC1)C(C)C | InChI=1S/C26H28N6O.2ClH/c1-17(2)32-10-8-31(9-11-32)16-19-14-28-26(33-19)22-12-18(13-25-23(22)15-29-30-25)20-4-3-5-24-21(20)6-7-27-24;;/h3-7,12-15,17,27H,8-11,16H2,1-2H3,(H,29,30);2*1H
